US08912210B2
Step A: tert-Butyl 5-bromo-6-chloropyridine-3-carboxylate
To a solution of 5-bromo-6-chloronicotinic acid (25.0 g, 106 mmol) in tetrahydrofuran (1.06 L) was added di-tert-butyl dicarbonate (69.2 g, 317 mmol) followed by 4-dimethylaminopyridine (12.9 g, 106 mmol). After 16 h, the mixture was diluted with water and aqueous hydrochloric acid was added (106 mL, 1 M, 106 mmol). The mixture was extracted with ethyl acetate (3×). The combined organic extracts were washed with brine (3×), dried over magnesium sulfate, filtered and concentrated. Purification by silica gel chromatography (100% dichloromethane→10% methanol/dichloromethane) gave the title compound. MS: m/z=294.1 (M+1).

reactant | 5-bromo-6-chloronicotinic acid | 106 mmol, 25.0 g | BrC=1C(=NC=C(C(=O)O)C1)Cl | C6H3BrClNO2
reactant | di-tert-butyl dicarbonate | 317 mmol, 69.2 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 1.06 L | O1CCCC1 | C4H8O
catalyst | 4-dimethylaminopyridine | 106 mmol, 12.9 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | water | O | H2O
solvent | hydrochloric acid | Cl | ClH
product | tert-Butyl 5-bromo-6-chloropyridine-3-carboxylate | BrC=1C=C(C=NC1Cl)C(=O)OC(C)(C)C | C10H11BrClNO2
